US08981085B2
2-Phenylpropanoic acid (653 mg, 4.35 mmol), bis(2-oxooxazolidin-3-yl)phosphinic chloride (1107 mg, 4.35 mmol) and triethylamine (1100 mg, 10.9 mmol) were added to 5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine (500 mg, 2.17 mmol) in DCM (100 mL). The reaction was stirred at room temperature for 1 hour, and then 2N aqueous Na2CO3 (50 mL) was added. The resulting suspension was filtered, and the solid was rinsed with DCM and water. After drying, N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-phenylpropanamide (384 mg, 48.8% yield) was obtained as a solid.

reactant | 2-Phenylpropanoic acid | 4.35 mmol, 653 mg | C1(=CC=CC=C1)C(C(=O)O)C | C9H10O2
reactant | bis(2-oxooxazolidin-3-yl)phosphinic chloride | 4.35 mmol, 1107 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 10.9 mmol, 1100 mg | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine | 2.17 mmol, 500 mg | BrC=1C(=C2C(=NC1)NC=C2N)F | C7H5BrFN3
reactant | Na2CO3 | 2N, 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-phenylpropanamide | 384 mg, 48.8% yield | BrC=1C(=C2C(=NC1)NC=C2NC(C(C)C2=CC=CC=C2)=O)F | C16H13BrFN3O
